US04061656
4,4-dimethoxy-3-methyl-but-1-yn-3-ol
After the addition of a slight amount of iron (III) nitrate, 2700 ml. of liquid ammonia are treated portion-wise with stirring and cooling with 169.5 g. of potassium. As soon as the initially blue coloration has disappeared, i.e., after about 30-45 minutes, acetylene gas in a stream of 3 1/min. is led in until the dark coloration of the reaction mixture becomes lighter. Then, the gas stream is reduced to 2 1/min. and the mixture treated dropwise with a solution of 500 g. of methylglyoxal-dimethylacetal in 425 ml. of abs. diethyl ether. The introduction of acetylene is continued for 1 hour with stirring. The reaction mixture is subsequently treated portion-wise with 425 g. of ammonium chloride, gradually warmed to 30° C. within 12 hours with evaporation of the ammonia and extracted with 1600 ml. of diethyl ether. The ether extract is dried over sodium sulfate and evaporated under reduced pressure. The remaining 4,4-dimethoxy-3-methyl-but-1-yn-3-ol boils, after rectification, at 33° C./0.03 mm Hg; nD25 = 1.4480.

reactant | ammonia | N | H3N
reactant | potassium | [K] | K
reactant | acetylene | C#C | C2H2
reactant | methylglyoxal-dimethylacetal | COC(C=O)(C)OC | C5H10O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | C(C)OCC | C4H10O
catalyst | iron (III) nitrate | [N+](=O)([O-])[O-].[Fe+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
product | 4,4-dimethoxy-3-methyl-but-1-yn-3-ol | COC(C(C#C)(O)C)OC | C7H12O3
